US08809371B2
A mixture of 2-(3,5-dimethoxyphenylamino)-5-fluoro-6-oxo-1,6-dihydropyridin-3-carboxylic acid (200 mg), WSC.HCl (312 mg), HOBt.H2O (249 mg), and DMF (2 ml) was stirred at room temperature for 45 minutes. 25% ammonia water (1 ml) was added, followed by stirring at the same temperature for 2 hours. Ethyl acetate was added to the reaction mixture. The resultant was washed with saturated saline and dried over anhydrous magnesium sulfate, the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=7:3 to 1:1), and a yellow solid of 6-(1H-1,2,3-benzotriazol-1-yloxy)-2-(3,5-dimethoxyphenylamino)-5-fluoronicotinamide (109 mg) was thus obtained.

reactant | 2-(3,5-dimethoxyphenylamino)-5-fluoro-6-oxo-1,6-dihydropyridin-3-carboxylic acid | 200 mg | COC=1C=C(C=C(C1)OC)NC=1NC(C(=CC1C(=O)O)F)=O | C14H13FN2O5
reactant | WSC.HCl | 312 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia water | 1 ml | O.N
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | H2O | 249 mg | O | H2O
product | 6-(1H-1,2,3-benzotriazol-1-yloxy)-2-(3,5-dimethoxyphenylamino)-5-fluoronicotinamide | 109 mg | N1(N=NC2=C1C=CC=C2)OC2=NC(=C(C(=O)N)C=C2F)NC2=CC(=CC(=C2)OC)OC | C20H17FN6O4
